US08071595B2
To a stirred solution of 1-(3-chloro-4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol (0.69 g, 2.716 mmol) in DCM (20 mL) was added DMP (2.36 g, 5.430 mmol) at RT. The reaction mixture was stirred for 1 h and diluted with water (10 mL). The combined organic layers were washed with a saturated NaHCO3 solution and water, dried over Na2SO4, filtered, and then concentrated in vacuo to afford 1-(3-chloro-4-methoxyphenyl)-4-hydroxy-4-methylpent-2-yn-1-one (0.45 g, 65%) as a brown oil.

reactant | 1-(3-chloro-4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol | 2.716 mmol, 0.69 g | ClC=1C=C(C=CC1OC)C(C#CC(C)(O)C)O | C13H15ClO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-(3-chloro-4-methoxyphenyl)-4-hydroxy-4-methylpent-2-yn-1-one | 0.45 g, 65% | ClC=1C=C(C=CC1OC)C(C#CC(C)(C)O)=O | C13H13ClO3
